US09388189B2
(S)-4-Amino-6-((3-(benzylthio)-1-(4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)propyl)amino)pyrimidine-5-carbonitrile
(S)-2-(1-Amino-3-(benzylthio)propyl)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (10 mg, 0.02 mmol) was treated with 4-amino-6-chloropyrimidine-5-carbonitrile (4 mg, 0.03 mmol) and N,N-diisopropylethylamine (24 μl, 0.14 mmol) according to the method described in Example 17. The residue was purified using SP1® Purification System (0% to 100% hexane-ethyl acetate) to obtain 8 mg (66% yield) of the title compound as a yellow solid. Purity 90%.

reactant | (S)-2-(1-Amino-3-(benzylthio)propyl)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.02 mmol, 10 mg | N[C@@H](CCSCC1=CC=CC=C1)C1=NN2C(C(N1C1=CC=CC=C1)=O)=CC=C2 | C22H22N4OS
reactant | 4-amino-6-chloropyrimidine-5-carbonitrile | 0.03 mmol, 4 mg | NC1=NC=NC(=C1C#N)Cl | C5H3ClN4
reactant | N,N-diisopropylethylamine | 0.14 mmol, 24 μl | C(C)(C)N(C(C)C)CC | C8H19N
product | (S)-4-Amino-6-((3-(benzylthio)-1-(4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)propyl)amino)pyrimidine-5-carbonitrile | 8 mg, 66% yield | NC1=NC=NC(=C1C#N)N[C@@H](CCSCC1=CC=CC=C1)C1=NN2C(C(N1C1=CC=CC=C1)=O)=CC=C2 | C27H24N8OS
